US07456169B2
4-[2-(4-methyl-1,3-thiazol-5-yl)ethoxy]-2-nitroaniline
A mixture of 4-amino-3-nitrophenol (386 mg, 2.5 mmol), 2-(4-methyl-1,3-thiazol-5-yl)ethanol (0.299 mL, 2.5 mmol), polymer supported triphenylphosphine (1.25 g, 3 mmol/g, 3.75 mmol), and di-tert-butyl azodicarboxylate (864 mg, 3.75 mmol) in THF (10 mL) was stirred at room temperature for 16 hours. Filtered through Celite and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel with 1:1 hexanes/ethyl acetate to provide 602 mg (86%) of the desired product. MS (DCI) m/e 279 (M+H)+, 1H NMR (300 MHz, DMSO-d6): □ 8.83 (s, 1H), 7.37 (d, J=3.05 Hz, 1H), 7.25 (s, 2H), 7.16 (dd, J=8.99, 2.88 Hz, 1H), 7.01 (s, 1H), 4.10 (t, J=6.27 Hz, 2H), 3.19 (t, J=6.27 Hz, 2H), 2.35 (s, 3H).

reactant | 4-amino-3-nitrophenol | 2.5 mmol, 386 mg | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | 2-(4-methyl-1,3-thiazol-5-yl)ethanol | 2.5 mmol, 0.299 mL | CC=1N=CSC1CCO | C6H9NOS
reactant | triphenylphosphine | 3.75 mmol, 1.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 3.75 mmol, 864 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[2-(4-methyl-1,3-thiazol-5-yl)ethoxy]-2-nitroaniline | 602 mg, 86% | CC=1N=CSC1CCOC1=CC(=C(N)C=C1)[N+](=O)[O-] | C12H13N3O3S
